US07714009B2
7-(2-Ethyl-1-piperidinyl)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one
A mixture of 1-ethylcyclopentene (1.0 g, 10.4 mmol) and sodium bicarbonate (0.1 g, 1.19 mmol) in methanol (150 ml) was ozonized at −78° C. until TLC analysis indicated complete consumption of 1-ethylcyclopentene. The crude ozonide was transferred directly to a mixture of 7-amino-1-methyl-1,3-dihydro-2H-benzimidazol-2-one (0.5 g, 3.07 mmol) and 10% palladium on carbon (0.05 g, Degussa type; 50% wet). The flask was fitted with a balloon of hydrogen and allowed to stir for 12 h. The reaction was filtered through GF/F paper and the filtrate concentrated under reduced pressure. The residue was purified by column chromatography eluting with a 10% acetone/hexanes mixture to afford 597 mg (75%) of the title compound.

reactant | 1-ethylcyclopentene | 10.4 mmol, 1.0 g | C(C)C1=CCCC1 | C7H12
reactant | sodium bicarbonate | 1.19 mmol, 0.1 g | C([O-])(O)=O.[Na+]
reactant | 7-amino-1-methyl-1,3-dihydro-2H-benzimidazol-2-one | 3.07 mmol, 0.5 g | NC1=CC=CC2=C1N(C(N2)=O)C | C8H9N3O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
product | 7-(2-Ethyl-1-piperidinyl)-1-methyl-1,3-dihydro-2H-benzimidazol-2-one | 597 mg, 75% | C(C)C1N(CCCC1)C1=CC=CC2=C1N(C(N2)=O)C | C15H21N3O
